US07053107B2
6-Chloro-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxylic acid methyl ester
To a slurry of 6-Chloro-1H-indazole-3-carboxylic acid methyl ester (8.3 g, 39.5 mmol) in MeCN (200 mL) was added 3,4-Dihydro-2H-pyran (5.4 mL, 59.3 mmol) and p-toluenesulfonic acid (237 mg, 1.25 mmol). After letting the reaction stir for 10 minutes, saturated NaHCO3 (1 mL) was added and the solvent was removed by rotary evaporation to a volume of 100 mL. The mixture was diluted with EtOAc and washed with water (50 mL) and then with saturated NaCl (50 mL). The organic layer was then dried over Na2SO4. After the solids were removed by filtration, the organic layer was concentrated to an oil by rotary evaporation. The product was precipitated from the oil using hexanes to yield the desired product (7.667 g, 66% yield).

reactant | 6-Chloro-1H-indazole-3-carboxylic acid methyl ester | 39.5 mmol, 8.3 g | COC(=O)C1=NNC2=CC(=CC=C12)Cl | C9H7ClN2O2
reactant | 3,4-Dihydro-2H-pyran | 59.3 mmol, 5.4 mL | O1CCCC=C1 | C5H8O
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | MeCN | 200 mL | CC#N | C2H3N
catalyst | p-toluenesulfonic acid | 1.25 mmol, 237 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 6-Chloro-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxylic acid methyl ester | 7.667 g, 66% yield | COC(=O)C1=NN(C2=CC(=CC=C12)Cl)C1OCCCC1 | C14H15ClN2O3
